### PR TITLE
Add Modularity Conjecture 

### PR DESCRIPTION
**Pull request by CBirkbeck**
### What is the conjecture
State the Shimura--Taniyama--Weil conjecture  (also known as the modularity conjecture/theorem) for elliptic curves over the rational numbers. 

https://en.wikipedia.org/wiki/Modularity_theorem

This is a very hard, known theorem in the case of the rational number and many  other cases, but open in general (and much harder to state!). The version we state is stronger than what is needed for FLT.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### CODE REVIEW

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 1]
```diff
@@ -0,0 +1,85 @@
...
+/-- The set of point `mod n` is finite.-/
+instance apFintype (E : WeierstrassCurve ℚ) [E.IsElliptic] (p : ℕ+) :
+    Fintype (setOfPointsModN E p) := by
+  rw [setOfPointsModN]
+  apply Subtype.fintype _
+
+/-Note that normally this is written as `p + 1 - #E(𝔽ₚ)`, but since we don't have a point at infinty
+on this affine curve we only have `p` -/
+def WeierstrassCurve.ap (E : WeierstrassCurve ℚ) [E.IsElliptic] (p : ℕ) : ℕ :=
+  p - Cardinal.toNat (Cardinal.mk (setOfPointsModN E p))
```
Comment (seewoo5) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean:69]: Just for curiosity, is there a reason why this (or number of mod n points) not in mathlib yet?

Comment (CBirkbeck) [reply FormalConjectures/Wikipedia/ModularityConjecture.lean:69]: I think its since we don't have conductors yet.

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 2]
```diff
@@ -0,0 +1,85 @@
...
+            ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 →
+              a_[p ^ r]f = (a_[p]f) ^ r
+
+/--See [diamondshurman2005] theorem 8.8.1. -/
+def ModularityConjecture (E : WeierstrassCurve ℚ) [E.IsElliptic] : Prop :=
+  ∃ (N : ℕ+) (f : CuspForm (Gamma0 N) 2), IsNormalisedEigenform f ∧
+    ∀ (p : ℕ), p.Prime → (N : ZMod p) ≠ 0 → a_[p]f = E.ap p
+
+@[category research solved, AMS 11]
+theorem modularity_conjecture (E : WeierstrassCurve ℚ) [E.IsElliptic] : ModularityConjecture E := sorry
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
theorem modularity_conjecture (E : WeierstrassCurve ℚ) [E.IsElliptic] : ModularityConjecture E := by
  sorry
```

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+def IsNormalisedEigenform {N : ℕ} {k : ℤ} (f : CuspForm (Gamma0 N) k) : Prop :=
+  a_[1]f = 1 ∧
+    ∀ (m n : ℕ), m.Coprime n →
+      a_[n * m]f = a_[n]f * a_[m]f ∧
+        ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) ≠ 0 →
+          a_[p ^ r]f = a_[p]f * a_[p ^ (r - 1)]f - p ^ (k - 1) * a_[p ^ (r - 2)]f ∧
+            ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 →
+              a_[p ^ r]f = (a_[p]f) ^ r
+
+/--See [diamondshurman2005] theorem 8.8.1. -/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
/-- See [diamondshurman2005] theorem 8.8.1. -/
```

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+      x ^ 3 + ratRed E.a₂ n * x ^ 2 + ratRed E.a₄ n * x + ratRed E.a₆ n}
+
+/-- The set of point `mod n` is finite.-/
+instance apFintype (E : WeierstrassCurve ℚ) [E.IsElliptic] (p : ℕ+) :
+    Fintype (setOfPointsModN E p) := by
+  rw [setOfPointsModN]
+  apply Subtype.fintype _
+
+/-Note that normally this is written as `p + 1 - #E(𝔽ₚ)`, but since we don't have a point at infinty
+on this affine curve we only have `p` -/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
/-- Note that normally this is written as `p + 1 - #E(𝔽ₚ)`, but since we don't have a point at
infinty on this affine curve we only have `p` -/
```

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+def WeierstrassCurve.ap (E : WeierstrassCurve ℚ) [E.IsElliptic] (p : ℕ) : ℕ :=
+  p - Cardinal.toNat (Cardinal.mk (setOfPointsModN E p))
+
+/- Since we don't have Hecke operators yet, we define this via the q-expansion coefficients. -/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
/-- Since we don't have Hecke operators yet, we define this via the q-expansion coefficients. -/
```

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+open scoped UpperHalfPlane Real ModularForm CongruenceSubgroup
+
+noncomputable section
+
+def modularFormAn (n : ℕ) {N : ℕ} {k : ℤ} (f : CuspForm (Gamma0 N) k) : ℂ :=
+  (qExpansion N f).coeff ℂ n
+
+local notation:73 "a_[" n:0 "]" f:72 => modularFormAn n f
+
+/-We need to reduce a rational modulo `p`, in practice we wont be dividing by zero since the
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
/-- We need to reduce a rational modulo `p`, in practice we wont be dividing by zero since the
```

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+  a_[1]f = 1 ∧
+    ∀ (m n : ℕ), m.Coprime n →
+      a_[n * m]f = a_[n]f * a_[m]f ∧
+        ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) ≠ 0 →
+          a_[p ^ r]f = a_[p]f * a_[p ^ (r - 1)]f - p ^ (k - 1) * a_[p ^ (r - 2)]f ∧
+            ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 →
+              a_[p ^ r]f = (a_[p]f) ^ r
+
+/--See [diamondshurman2005] theorem 8.8.1. -/
+def ModularityConjecture (E : WeierstrassCurve ℚ) [E.IsElliptic] : Prop :=
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean:81]: In 8.8.1 they ask that the form is also a newform. Is this only to ensure that the corresponding elliptic curve also has conductor `N`?

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 8]
```diff
@@ -0,0 +1,85 @@
...
+
+/- Since we don't have Hecke operators yet, we define this via the q-expansion coefficients. -/
+def IsNormalisedEigenform {N : ℕ} {k : ℤ} (f : CuspForm (Gamma0 N) k) : Prop :=
+  a_[1]f = 1 ∧
+    ∀ (m n : ℕ), m.Coprime n →
+      a_[n * m]f = a_[n]f * a_[m]f ∧
+        ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) ≠ 0 →
+          a_[p ^ r]f = a_[p]f * a_[p ^ (r - 1)]f - p ^ (k - 1) * a_[p ^ (r - 2)]f ∧
+            ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 →
+              a_[p ^ r]f = (a_[p]f) ^ r
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
 a_[1]f = 1 ∧
  (∀ (m n : ℕ), m.Coprime n → a_[n * m]f = a_[n]f * a_[m]f) ∧
  (∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) ≠ 0 →
    a_[p ^ r]f = a_[p]f * a_[p ^ (r - 1)]f - p ^ (k - 1) * a_[p ^ (r - 2)]f) ∧
  ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 → a_[p ^ r]f = (a_[p]f) ^ r
```
I'm not sure if it was parenthesised correctly before.

**Review by callesonne — COMMENTED** [review]
Hi! I'm really happy to see this added :)

File: FormalConjectures/Wikipedia/ModularityConjecture.lean (hunk 7 above)
Comment (CBirkbeck) [reply FormalConjectures/Wikipedia/ModularityConjecture.lean:81]: Yeah essentially. Since we can't pin down the level then we don't need this.

Comment (CBirkbeck) [reply FormalConjectures/Wikipedia/ModularityConjecture.lean:81]: Or in other words, if it wasn't new, then there exists a newform of smaller level N which has the same eigenvalues at all primes not dividing N (see 5.8.4 of loc. cit.) so you get your newform as in 8.8.1.

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 9]
```diff
@@ -0,0 +1,84 @@
...
+  apply Subtype.fintype _
+
+/-- Note that normally this is written as `p + 1 - #E(𝔽ₚ)`, but since we don't have a point at
+infinty on this affine curve we only have `p` -/
+def WeierstrassCurve.ap (E : WeierstrassCurve ℚ) [E.IsElliptic] (p : ℕ) : ℕ :=
+  p - Cardinal.toNat (Cardinal.mk (setOfPointsModN E p))
+
+/-- Since we don't have Hecke operators yet, we define this via the q-expansion coefficients. -/
+def IsNormalisedEigenform {N : ℕ} {k : ℤ} (f : CuspForm (Gamma0 N) k) : Prop :=
+ a_[1]f = 1 ∧
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
  a_[1]f = 1 ∧
```
my bad!

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 10]
```diff
@@ -0,0 +1,84 @@
...
+  (∀ (m n : ℕ), m.Coprime n → a_[n * m]f = a_[n]f * a_[m]f) ∧
+  (∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) ≠ 0 →
+    a_[p ^ r]f = a_[p]f * a_[p ^ (r - 1)]f - p ^ (k - 1) * a_[p ^ (r - 2)]f) ∧
+  ∀ (p r : ℕ), p.Prime → 2 ≤ r → (N : ZMod p) = 0 → a_[p ^ r]f = (a_[p]f) ^ r
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean:78]: Do you have a reference for the fact that this is sufficient to determine that it's an eigenform? Is it supposed to follow from `5.3.1` of Diamond-Shurman (and if so could you add it to the docstring)? Thanks!

Comment (CBirkbeck) [reply FormalConjectures/Wikipedia/ModularityConjecture.lean:78]: So yes, it follows from 5.8.5 (which maybe follows from 5.3.1, I'm not sure). But in any case I'll add the reference.

**Comment by CBirkbeck** [comment]
I cant seem to remove the awaiting author label, am I doing something wrong?

**Comment by callesonne** [comment]
> I cant seem to remove the awaiting author label, am I doing something wrong?

Oh right, this is probably a permissions issue, so you're not doing anything wrong :)

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 11]
```diff
@@ -0,0 +1,85 @@
...
+* [F. Diamond and J. Shurman, *A First Course in Modular Forms*][diamondshurman2005]
+
+-/
+
+
+open Complex CongruenceSubgroup ModularFormClass
+open scoped UpperHalfPlane Real ModularForm CongruenceSubgroup
+
+noncomputable section
+
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean:41]: Actually, could you add comments to this and the other `def`?

File: FormalConjectures/Wikipedia/ModularityConjecture.lean [hunk 12]
```diff
@@ -0,0 +1,87 @@
...
+/--Then `n`-th Fourier coefficient of a modular forms (around the cusp at infinity). -/
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/ModularityConjecture.lean]:
```suggestion
/-- The `n`-th Fourier coefficient of a modular form (around the cusp at infinity). -/
```
